US05455258
4-[N-t-Butyloxycarbamoyl]-4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-piperidine is dissolved in dichloroethane (60 mL) and ethanol (1.0 mL) in a glass sealed tube. Hydrochloric acid gas (from a lecture bottle) is bubbled through the solution for 30 minutes at -10° C. The tube is sealed, gradually warmed to room temperature, and stirred overnight. At this point, hydrochloric acid gas is again bubbled through the reaction mixture as done previously and stirred at room temperature for an additional 24 hours. The reaction mixture is reduced to 1/3 volume in vacuo and triturated with diethyl ether. The solid is filtered off and dried in vacuo to provide 4-[N-hydroxy-carbamoyl]-4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-piperidine, m.p. 135.5°-142° C.

reactant | 4-[N-t-Butyloxycarbamoyl]-4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-piperidine | C(C)(C)(C)ONC(=O)C1(CCN(CC1)CC1=CC=CC=C1)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C31H39N3O5S
reactant | ethanol | 1.0 mL | C(C)O | C2H6O
solvent | dichloroethane | 60 mL | ClC(C)Cl | C2H4Cl2
product | 4-[N-hydroxy-carbamoyl]-4-[[4-methoxybenzenesulfonyl](benzyl)amino]-1-[benzyl]-piperidine | ONC(=O)C1(CCN(CC1)CC1=CC=CC=C1)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)OC | C27H31N3O5S
